US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-[6-(5-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (72.6 mg, 0.224 mmol) in tetrahydrofuran (4.0 mL) were added a solution of 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (46.3 mg, 0.29 mmol) in tetrahydrofuran (0.5 mL) and triethylamine (68 mg, 0.672 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogencarbonate solution, and extracted three times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was filtrated, washed with ethyl acetate/hexane to give the title compound (64 mg, 64%) as a brown powder.

reactant | N-[6-(5-amino-2-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.224 mmol, 72.6 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)C | C17H17N5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.29 mmol, 46.3 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | triethylamine | 0.672 mmol, 68 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 64 mg, 64% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2C)NC(=O)C2=CC(=NN2C)C)C1 | C23H23N7O3
